US08877782B2
Azetidin-1-yl-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using azetidine instead of methylamine, to the title compound (32 mg, 28%) which was obtained as a light yellow oil. MS: m/e=350.3 [M+H]′.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | azetidine | N1CCC1 | C3H7N
product | Azetidin-1-yl-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone | 32 mg, 28% | N1(CCC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C20H19N3O3
